US06812237B2
To a solution of N-[2-[3-(allyloxycarbonyl)-benzyloxy]-1(S)-cyanoethyl]-3-methyl-Nα-phenyl-L-phenylalaninamide (12.48 g, 25.11 mmol) in THF (500 mL), is added morpholine (21.9 mL, 251 mmol), and the solution is deoxygenated with bubbling N2 for 5 min. Pd(PPh3)4 is then added in one portion, and the solution is stirred at room temp. for 10 min. Solvent is evaporated, and the residue is dissolved in EtOAc (500 mL), and washed with 1 N HCl (500 mL), brine (200 mL), dried (MgSO4), evaporated and chromatographed (2%-10% MeOH/CH2Cl2) to yield N-[2-(3-carboxy-benzyloxy)-1(S)-cyanoethyl]-3-methyl-Nα-phenyl-L-phenylalaninamide, as a white solid; m.p. 135-137°.

reactant | N-[2-[3-(allyloxycarbonyl)-benzyloxy]-1(S)-cyanoethyl]-3-methyl-Nα-phenyl-L-phenylalaninamide | 25.11 mmol, 12.48 g | C(C=C)OC(=O)C=1C=C(COC[C@H](C#N)NC([C@@H](NC2=CC=CC=C2)CC2=CC(=CC=C2)C)=O)C=CC1 | C30H31N3O4
reactant | morpholine | 251 mmol, 21.9 mL | N1CCOCC1 | C4H9NO
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | N-[2-(3-carboxy-benzyloxy)-1(S)-cyanoethyl]-3-methyl-Nα-phenyl-L-phenylalaninamide | C(=O)(O)C=1C=C(COC[C@H](C#N)NC([C@@H](NC2=CC=CC=C2)CC2=CC(=CC=C2)C)=O)C=CC1 | C27H27N3O4
